US07781454B2
Step 3: {1-(4-Methoxybenzyl)-6-[(4-methoxybenzyl)amino]-1H-pyrazolo[3,4-b]pyridin-3-yl}methanol
To a solution of tert-butyl 1-(4-methoxybenzyl)-6-[(4-methoxybenzyl)amino]-1H-pyrazolo[3,4-b]pyridine-3-carboxylate (2.65 g, 5.58 mmol) in 30 mL THF cooled in an ice bath was added a 2M solution of LiAlH4 in THF (3.49 mL, 6.98 mmol). The resulting mixture was stirred cold for 20 minutes and then warmed to room temperature and then left at room temperature for 2.5 hours. The mixture was then diluted with THF (50 mL) and then treated sequentially with water (265 μL), 15% NaOH (265 μL) and water (795 μL) and then stirred for 30 minutes. The resulting suspension was filtered through diatomaceous earth and the resulting cake was rinsed with THF (50 mL). The combined filtrates were preabsorbed onto silica gel (15) and the solvent removed in vacuo. This solid was purified on silica gel (80 g) column (0-20% MeOH/CH2Cl2) to give the title compound. LRMS (M+1)=404.9

reactant | tert-butyl 1-(4-methoxybenzyl)-6-[(4-methoxybenzyl)amino]-1H-pyrazolo[3,4-b]pyridine-3-carboxylate | 5.58 mmol, 2.65 g | COC1=CC=C(CN2N=C(C=3C2=NC(=CC3)NCC3=CC=C(C=C3)OC)C(=O)OC(C)(C)C)C=C1 | C27H30N4O4
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 265 μL | O | H2O
reactant | NaOH | 265 μL | [OH-].[Na+]
reactant | water | 795 μL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 6.98 mmol, 3.49 mL | C1CCOC1 | C4H8O
product | {1-(4-Methoxybenzyl)-6-[(4-methoxybenzyl)amino]-1H-pyrazolo[3,4-b]pyridin-3-yl}methanol | COC1=CC=C(CN2N=C(C=3C2=NC(=CC3)NCC3=CC=C(C=C3)OC)CO)C=C1 | C23H24N4O3
